US09359381B2
3-Chloro-5-(10-(5-chlorofuran-2-yl)-1,3-dimethyl-2,4-dioxo-2,3,4,7,8,10-hexahydro-1H-pyrimido[4′,5′:3,4]pyrrolo[2,1-c][1,4]thiazin-5-yl)benzonitrile
3-Chloro-5-(1,3-dimethyl-2,4-dioxo-6-(2-(tritylthio)ethyl)-2,3,4,6-tetrahydro-1H-pyrrolo[3,4-d]pyrimidin-5-yl)benzonitrile (Intermediate GA) (146 mg, 0.237 mmol), 5-chlorofuran-2-carbaldehyde (34.0 mg, 0.260 mmol) and bismuth (III) triflate (31.0 mg, 0.047 mmol) were suspended in toluene (Volume: 2.5 ml). The reaction was then heated to 100° C. under microwave irradiation for 3 hr. The reaction mixture was suspended in MeOH (50 mL) and adsorbed onto silica. The residue was purified via ISCO SiO2 12 g Redisep Rf column eluting with 20% EtOAc/hexane. Fractions were combined and evaporated to afford a pale yellow gum. The gum was dissolved in Et2O (30 mL) and iso-hexane (30 mL) was added to afford a suspension. The solvent was evaporated to afford the title compound as a pale yellow solid.

reactant | 3-Chloro-5-(1,3-dimethyl-2,4-dioxo-6-(2-(tritylthio)ethyl)-2,3,4,6-tetrahydro-1H-pyrrolo[3,4-d]pyrimidin-5-yl)benzonitrile | 0.237 mmol, 146 mg | ClC=1C=C(C#N)C=C(C1)C=1N(C=C2N(C(N(C(C21)=O)C)=O)C)CCSC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C36H29ClN4O2S
reactant | 5-chlorofuran-2-carbaldehyde | 0.260 mmol, 34.0 mg | ClC1=CC=C(O1)C=O | C5H3ClO2
reactant | bismuth (III) triflate | 0.047 mmol, 31.0 mg | [O-]S(=O)(=O)C(F)(F)F.[Bi+3].[O-]S(=O)(=O)C(F)(F)F.[O-]S(=O)(=O)C(F)(F)F
reactant | iso-hexane | 30 mL | CCCC(C)C | C6H14
solvent | toluene | 2.5 ml | C1(=CC=CC=C1)C | C7H8
solvent | MeOH | 50 mL | CO | CH4O
solvent | Et2O | 30 mL | CCOCC | C4H10O
product | 3-Chloro-5-(10-(5-chlorofuran-2-yl)-1,3-dimethyl-2,4-dioxo-2,3,4,7,8,10-hexahydro-1H-pyrimido[4′,5′:3,4]pyrrolo[2,1-c][1,4]thiazin-5-yl)benzonitrile | ClC=1C=C(C#N)C=C(C1)C1=C2C(=C3C(SCCN31)C=3OC(=CC3)Cl)N(C(N(C2=O)C)=O)C | C22H16Cl2N4O3S
